Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
Lipitor / flu virus vaccine / Banana / egg / rice / chocolate
 
Attending: ___.
 
Chief Complaint:
OSH transfer for epidural abscess, osteomyelitis, MSSA 
bacteremia.  

 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ woman with DMII, HTN, DJD spine with chronic back pain, OA, 
depression, probable dementia (details unclear, no family 
available). Presented with knee pain s/p fall on ___. Knee and 
hip XR no fractures. Admitted to ___ from ___ to 
___. Has been bacteremic over 1 week with MRSA, blood cx still 
positive. Allergic to PCN so used vancomycin x6d then dapto x2 
days, then on linezolid. She has chronic back pain , and MRI L & 
T spine with contrast showed osteomyelitis of vertebral bodies 
around T2 and discitis with several small epidural abscesses. 
TTE showed possible vegetation on ___, TEE no vegetation. 
Neurology consulted at ___, felt there was no 
spinal cord impingement or compression. 
During stay there, patient also transfused 2 units for a hct of 
21, GI saw patient and reported no bleed, and recommended 
outpatient work up. Patient also had acute on chronic renal 
fialure during the admission (baseline creatinine of 1.2-1.6).  
Patient was transferred on ___ to ___ for further 
management.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.
 
Past Medical History:
OA  
HTN  
HL  
dysthymic disoder  
fibromyalgia  
choronic low back pain  
degenerative spinal dichanges  

 
Social History:
___
Family History:
Non-contributory  

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals: T:98.5, BP:155/74 P:80 R:18 O2: 93% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Back: tenderness to palpation along spine throughout.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Knees with marked valgus deformity, pain with ranging  
Neuro: AAOx3, patient able to walk with assistance to comode, 
sensation intact, strength ___ UE/ ___, CNII-XII intact bl, 
normal finger/ nose/ finger  

DISCHARGE PHYSICAL EXAM: 
Vitals: Tm 99.3, Tc 98.3, BP 148/74, HR 90, RR 18, O2 97% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, knees with marked valgus deformity, pain with ranging  
Neuro: AAOx3, patient able to walk with assistance to comode, 
sensation intact, strength ___ ___
 
Pertinent Results:
ADMISSION LABS:
___ 05:00AM BLOOD WBC-10.6 RBC-3.30* Hgb-10.0* Hct-30.7* 
MCV-93 MCH-30.3 MCHC-32.6 RDW-13.5 Plt ___
___ 01:15AM BLOOD WBC-9.1 RBC-3.32* Hgb-9.8* Hct-31.0* 
MCV-93 MCH-29.4 MCHC-31.6 RDW-13.6 Plt ___
___ 05:00AM BLOOD Plt ___
___ 01:15AM BLOOD Plt ___
___ 01:15AM BLOOD ___ PTT-31.5 ___
___ 05:00AM BLOOD Glucose-104* UreaN-13 Creat-1.4* Na-134 
K-5.0 Cl-105 HCO3-21* AnGap-13
___ 01:15AM BLOOD Glucose-121* UreaN-14 Creat-1.4* Na-134 
K-5.1 Cl-104 HCO3-21* AnGap-14
___ 05:00AM BLOOD Calcium-9.0 Phos-4.2 Mg-1.9
___ 01:15AM BLOOD Calcium-8.7 Phos-4.1 Mg-1.9

DISCHARGE LABS: 
___ 05:35AM BLOOD WBC-10.2 RBC-3.20* Hgb-9.5* Hct-29.8* 
MCV-93 MCH-29.6 MCHC-31.7 RDW-14.1 Plt ___
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-120* UreaN-17 Creat-1.6* Na-137 
K-3.7 Cl-106 HCO3-21* AnGap-14
___ 05:35AM BLOOD Calcium-8.9 Phos-4.0 Mg-1.5*

MICROBIOLOGY: 
Blood cultures x 5 - pending. We will follow at ___.

C. difficile DNA amplification assay (Final ___: Negative 
for toxigenic C. difficile by the Illumigene DNA amplification 
assay. 

IMAGING:
CHEST PORT. LINE PLACEMENT Study Date of ___  
IMPRESSION: 
1.  New right PICC line with tip terminating in the mid SVC. 
2.  Resolution of left retrocardiac opacification, however 
blunting of the left costophrenic sulcus still remains. 

RENAL U.S. Study Date of ___ 
IMPRESSION:  Small bilateral renal cysts.  Otherwise, 
unremarkable renal 
study. 
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a h/o DMII, HTN, and OA 
who was transferred from ___ for 
management of MSSA bacteremia, osteomyelitis, and epidural 
abscess.

ACTIVE ISSUES: 
# MSSA bacteremia, osteomyelitis, and epidural abscess: The 
patient was transferred from ___ on ___ 
for spine eval of epidural abscess. Patient was being managed 
with linezolid on transfer. Seen by the spine team here who 
recommended conservative management of the epidural abscess. 
Seen by ID who recommended nafcillin due to need for prolonged 
course and adverse effects of linezolid.  Due to penicillin 
allergy, pt underwent desensitization in the MICU until 
nafcillin levels therapeutic. In ICU pt was noted to have 
multiple neurotic excoriations on scalp, possible source of 
MSSA. Pt underwent nafcillin desensitization protocol. She 
tolerated desensitization well, and was continued on nafcillin 
2g IV Q4. She was transitioned back to medicine floor for 
further management. Patient received PICC by ID. Pt did not have 
any symptoms of cord compression throughout hospitalization. Had 
few loose stolls prior to d/c but C. Diff negative. She will 
need repeat MRI in follow-up.  

# ___: Pt has chronic renal insufficency, baseline Cr 1.4. She 
had a bump in Cr from 1.5 to 1.7 the day after starting 
nafcillin. Given concern for AIN, renal was consulted. Cr 
remained between 1.6 and 1.8 over the next two days. Pt did not 
have any rash or peripheral eosinophilia. UA did not show 
elevated WBC. Few WBC casts, but renal team recommended we 
continue nafcillin given that this is unlikely to be AIN (AIN 
typically starts about 48 hrs after starting offending agent, 
usually see rash or peripheral eosinophilia, etc.). Patient will 
need repeat creatinine measured this coming ___.

# Fall: Unclear why pt has fall, but most likely mechanical 
given pt's history of OA. Syncopal workup at OSH showed no acute 
abnormality on CT head, EKG was within normal limits, and 
troponins were negative x 3. Fall may be related to infectious 
etiology, given patient's known bacteremia and epidural abscess. 
The patient underwent OT consult for cognitive evaluation as 
well as rehab evaluation.  

#. Anxiety - Patient with severe anxiety disorder. Required 
intermittent ativan while in house. Anxiety improves with 
re-assurance. 

# Thrombocytosis from OSH: Likely reactive. Plt downtrended, 546 
on discharge. 

CHRONIC ISSUES: 

# DM: Patient was kept on ISS in hospital.   
  
# Depression: Home paroxetine was initially held as risk of 
serotonin syndrome on linezolid, but this was resumed after 
patient started nafcillin. 

# HLD: Home ezetimibe was held.   

# HTN: Patient was kept on home lisinopril. 

TRANSITIONAL ISSUES: 

# Cousin ___ - ___, or ___ 

# Follow-up MRI as outpatient to evaluate for resolution of 
osteomyelitis and epidural abscess. This will be scheduled by 
ID. 

# Will need chem-7 drawn this ___ hours after 
discharge. If Cr is 1.7-1.9 then check again in 48 hours. If 
greater than 2.0, please call ___ clinic to determine whether 
will need change to antibiotic regimen. 

# blood cultures are pending at time of discharge
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from  ___ DC summary.
1. MetFORMIN (Glucophage) 500 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 600 mg PO BID 
4. Vitamin D 400 UNIT PO BID 
5. Loratadine *NF* 10 mg Oral daily 
6. Paroxetine 40 mg PO DAILY 
7. traZODONE 150 mg PO HS:PRN insomnia 
8. Multivitamins 1 TAB PO DAILY 
9. Lisinopril 5 mg PO DAILY 
10. Ezetimibe 10 mg PO QOD 
11. Fish Oil (Omega 3) 1200 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Calcium Carbonate 600 mg PO BID 
3. Lisinopril 5 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Paroxetine 40 mg PO DAILY 
6. Vitamin D 400 UNIT PO BID 
7. Nafcillin 2 g IV Q4H 
8. Ezetimibe 10 mg PO QOD 
9. Fish Oil (Omega 3) 1200 mg PO DAILY 
10. Loratadine *NF* 10 mg Oral daily 
11. MetFORMIN (Glucophage) 500 mg PO DAILY 
12. traZODONE 150 mg PO HS:PRN insomnia 
13. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q4H:PRN Pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
MSSA bacteremia
Osteomyelitis
Epidural abscess

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you at the ___! 

You were admitted from ___ due to an 
infection of your blood and around your spinal bones. You were 
treated with intravenous antibiotics during in the hospital. We 
were concerned about an allergic reaction to one antibiotic, so 
you spent one night in the Intensive Care Unit so you could be 
safely transitioned to this an antibiotic. You will be going to 
a rehabilitation facility  to continue the antibiotic and work 
with phyiscal therapy.

Please start the following medication: 
Nafcillin
Vicodin
Senna PRN constipation

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___